US07851493B2
30.7 g of crude 4-Bromomethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester were dissolved in 170 ml dry dimethylformamide. 29.95 g Silver trifluoroacetate were added and the mixture was stirred at room temperature overnight. 100 ml brine was added and the mixture was stirred for one hour. The reaction mixture was filtered through a pad of celite, the solvent removed in vacuo and the resulting residue dissolved in 200 ml ethanol. The mixture was heated to reflux for three hours. Then the solvent was removed in vacuo and the residue dissolved in water and extracted five times with ethyl acetate. The combined organic layers were dried over MgSO4, the solvent removed in vacuo and the residue purified by flash chromatography on silica gel (eluting with n-heptane:ethyl acetate=5:1=>ethylacetate) to obtain 17.8 g 4-hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester as a solid.

reactant | 4-Bromomethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester | 30.7 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)CBr | C14H14BrNO4
reactant | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
solvent | brine | 100 ml | [Cl-].[Na+].O
catalyst | Silver trifluoroacetate | 29.95 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 4-hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester | 17.8 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)CO | C14H15NO5
